US04115443
EXAMPLE 3. Preparation of DL-lithium pantoate monohydrate.
A slurry of 334 grams of DL-calcium pantoate and 102 grams of lithium oxalate in 600 grams of water was heated at boiling temperature with continuous stirring in the apparatus described in Example 1 for 4 hours. The resulting mixture was then filtered while hot and the calcium oxalate that was thus separated was washed three times with 70-milliliter portions of hot water. The filtrate and wash waters were then combined and evaporated in a rotary vacuum evaporator to a volume of 400 milliliters during which 254 grams of DL-lithium pantoate monohydrate having a melting point of 107°-110° C, equivalent to 74% of the theoretical yield, separated and was collected. From the mother liquor by further concentration, DL-lithium pantoate monohydrate, in an amount equivalent to 20% of the original DL-pantolactone, was recovered.

reactant | calcium pantoate | C([C@H](O)C(C)(C)CO)(=O)[O-].[Ca+2].C([C@H](O)C(C)(C)CO)(=O)[O-]
reactant | lithium oxalate | 102 grams | C(C(=O)[O-])(=O)[O-].[Li+].[Li+]
solvent | water | 600 grams | O | H2O
product | lithium pantoate monohydrate | O.C([C@H](O)C(C)(C)CO)(=O)[O-].[Li+] | InChI=1S/C6H12O4.Li.H2O/c1-6(2,3-7)4(8)5(9)10;;/h4,7-8H,3H2,1-2H3,(H,9,10);;1H2/q;+1;/p-1/t4-;;/m0../s1
